US03971819
A. 4-(m-Chlorophenoxy)-3-nitro-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (28 g), m-chlorophenol (26 g), sodium bicarbonate (34 g), and water (200 ml) was stirred at 85°C for 10 hours. After cooling, excess m-chlorophenol was removed by extraction with diethyl ether, and 4-(m-chlorophenoxy)-3-nitro-5-sulphamyl-benzoic acid was precipitated from the aqueous layer by the addition of 4N hydrochloric acid. After recrystallization from aqueous methanol, the melting point was 230°-232°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 28 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | m-chlorophenol | 26 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium bicarbonate | 34 g | C([O-])(O)=O.[Na+]
solvent | water | 200 ml | O | H2O
product | 4-(m-Chlorophenoxy)-3-nitro-5-sulphamyl-benzoic acid | ClC=1C=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=CC1 | C13H9ClN2O7S
